US04605653
Preparation of 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]-oxazino-[4,3-a]isoquinoline-4-thione
To a solution of 2.67 g (0.01 mole) of 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline in 150 ml of absolute chloroform a solution of 2.0 g (0.02 mole) of triethyl amine in 10 ml of absolute chloroform is added, and to the mixture 1.15 g (0.01 mole) of thiophosgene are added dropwise with stirring, under cooling with ice. The reaction mixture is stirred for 10 minutes, then it is washed to neutral with 15 ml of a 5% hydrochloric acid solution and subsequently water. The chloroformic phase is dried over sodium sulfate and evaporated to dryness. The residue is taken up in 15 to 20 ml of ethanol, and ether is added to the mixture until slight turbidity. The desired compound is obtained in crystalline form.

reactant | 1-[bis(hydroxymethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | 0.01 mole, 2.67 g | OCC(C1NCCC2=CC(=C(C=C12)OC)OC)CO | C14H21NO4
reactant | triethyl amine | 0.02 mole, 2.0 g | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.01 mole, 1.15 g | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]-oxazino-[4,3-a]isoquinoline-4-thione | Yield: 19% | OCC1COC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=S | C15H19NO4S
